US06077959
To a stirred solution of 1.0 gram (0.0036 mole--1.0 equiv.) of 1-(4-chloro-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole in 10 mL of concentrated sulfuric acid (% wt/vol. triazole to solvent--10%) was added in small portions 0.972 gram (0.0043 mole--1.2 equiv.) of N-iodosuccinimide. Upon completion of the addition the reaction mixture was stirred at ambient temperature and in absence of light for 30 minutes. After this time thin layer chromatographic (TLC) analysis of the reaction mixture indicated that the reaction was almost complete. The reaction mixture was then quenched with 50 mL of water, and the resulting mixture was extracted with two 25 mL portions of ethyl acetate. The extracts were combined and washed with one 15 mL portion of an aqueous 10% sodium bisulfite solution followed by one 15 mL portion of water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 1.2 grams of 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole (83.2% yield). The NMR spectrum was consistent with the proposed structure.

reactant | 1-(4-chloro-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole | 1.0 gram | ClC1=CC(=C(C=C1)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O
reactant | N-iodosuccinimide | 0.972 gram | IN1C(CCC1=O)=O | C4H4INO2
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole | 1.2 grams, 83.2% yield | ClC1=CC(=C(C=C1I)N1N=C(N(C1=O)C(F)F)C)F | C10H6ClF3IN3O
